US05284847
Concentrated hydrochloric acid (125 ml) was heated to 60° C. with stirring, and a solution of 2-amino-5-isopropylthiophene-3-carboxylic acid (18.52 g, 0.1 mol) in 200 ml of n-propanol was added dropwise while the temperature was raised gradually to 80° C. A slow evolution of carbon dioxide, subsiding after 2 hours was observed. The mixture was evaporated in vacuo, and stripped five times with 200 ml of propanol to remove water. The residue was dissolved in 25 ml of propanol, and reprecipitated by the addition of 300 ml of tetrahydrofuran. After stirring overnight the precipitate was filtered off to yield 9.23 g (52%) of 2-amino-5-isopropylthiophene hydrochloride melting with destruction at 152°-153° C. 1H-NMR (DMSO-d6, δ): 1.2 (d, 6H), 3.2 (m, 1H), 6.7 (d, 1H), 6.8 (d, 1H).

reactant | hydrochloric acid | 125 ml | Cl | ClH
reactant | 2-amino-5-isopropylthiophene-3-carboxylic acid | 0.1 mol, 18.52 g | NC=1SC(=CC1C(=O)O)C(C)C | C8H11NO2S
reactant | carbon dioxide | C(=O)=O | CO2
solvent | n-propanol | 200 ml | C(CC)O | C3H8O
product | 2-amino-5-isopropylthiophene hydrochloride | 9.23 g, 52% | Cl.NC=1SC(=CC1)C(C)C | InChI=1S/C7H11NS.ClH/c1-5(2)6-3-4-7(8)9-6;/h3-5H,8H2,1-2H3;1H
